* Schematics Netlist *



R_R2         $N_0002 $N_0001  1.5k  
V_V1         $N_0003 0 10V
R_R1         $N_0003 $N_0001  1.5k  
R_R4         0 $N_0002  1.5k  
R_R7         $N_0005 $N_0004  1.5k  
R_R5         $N_0006 $N_0004  1.5k  
V_V2         $N_0006 0 10V
R_R8         0 $N_0005  1.5k  
R_R3         $N_0007 $N_0001  1.5k  
C_C1         0 $N_0002  100n  
X_U4         $N_0007 $N_0002 Sw_tClose PARAMS: tClose=100u ttran=1u
+  Rclosed=0.01 Ropen=1Meg
R_R6         $N_0008 $N_0004  1.5k  
C_C2         0 $N_0005  100n  
X_U3         $N_0008 $N_0005 Sw_tOpen PARAMS: tOpen=90u ttran=1u Rclosed=0.01
+  Ropen=1Meg
I_I4         0 $N_0009 DC 10mA  
C_C8         $N_0010 $N_0011  10n  
R_R19         $N_0009 0  1k  
V_V8         $N_0012 0 3V
X_U19A         $N_0013 $N_0014 $N_0015 $G_DPWR $G_DGND 74HC00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U17A         $N_0015 $N_0016 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V11         $N_0017 0 5V
X_U18A         $N_0016 $N_0018 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R22         $N_0013 $N_0017  10k  
I_I3         $N_0010 0 DC 2mA  
S_S2         $N_0009 $N_0010 $N_0018 0 Sbreak
RS_S2        $N_0018 0 1G
E_U21         $N_0011 0 VALUE {LIMIT(V(0,$N_0010)*1E3,-12V,+12V)}
E_U20         $N_0014 0 VALUE {LIMIT(V($N_0012,$N_0011)*1E3,0V,+5V)}
C_C9         $N_0013 $N_0016  1n  
