* Schematics Netlist *



E_MULT1         $N_0001 0 VALUE {V(A)*V($N_0002)}
R_R6         $N_0004 $N_0003  10k  
F_F1         $N_0006 A VF_F1 9
VF_F1        $N_0005 A 0V
F_F2         $N_0004 A1 VF_F2 9
VF_F2        $N_0003 A1 0V
R_Rs         $N_0002 0  1m  
R_Rp         A $N_0002  {rvar}  
R_Rm         $N_0001 0  1g  
R_R1         $N_0006 $N_0005  10k  
R_R2         A 0  1k  
V_V1         $N_0006 0 5V
R_R12         0 $N_0007  10k  
F_F3         0 $N_0008 VF_F3 9
VF_F3        $N_0007 $N_0008 0V
R_R11         $N_0008 0  1k  
V_V2         $N_0004 0 {vvar1}
R_R7         A1 0  1k  
V_V4         $N_0008 0 5V
