* Schematics Netlist *



R_R2         $N_0002 $N_0001  10k  
V_V4         0 $N_0003 2.5
R_R4         $N_0001 $N_0004  20k  
V_Vg         $N_0002 0 0
R_R5         $N_0005 $N_0004  10k  
V_V3         $N_0006 $N_0005 5
E_U1         $N_0004 0 VALUE {LIMIT(V(0,$N_0001)*1E6,-900V,+900V)}
R_R1         $N_0002 $N_0007  10k  
R_R3         $N_0003 $N_0001  10k  
V_V2         $N_0008 $N_0007 2.5
D_D1         $N_0008 $N_0001 Dideal 
D_D2         $N_0001 $N_0006 Dideal 
