* Schematics Netlist *



R_R5         $N_0002 $N_0001  20k  
R_R6         $N_0004 $N_0003  10k  
R_R7         $N_0004 0  10k  
V_Vcc         $N_0003 0 5
R_R3         $N_0006 $N_0005  10k  
R_R4         $N_0006 0  10k  
E_U1         $N_0005 0 VALUE {LIMIT(V($N_0007,$N_0006)*1E6,-15V,+15V)}
E_U2         $N_0002 0 VALUE {LIMIT(V($N_0001,$N_0004)*1E6,-15V,+15V)}
R_R2         $N_0007 $N_0008  10k  
R_R1         $N_0009 $N_0007  10k  
V_Vg         $N_0009 0 0
R_R8         $N_0001 $N_0005  10k  
D_D1         $N_0008 $N_0002 Dbreak 
